US04353905
Similarly, reaction of 4-(2-phenyl-1H-imidazol-1-yl)-γ-oxobenzenebutanoic acid with hydrazine hydrate according to the procedure of this Example gives 4,5-dihydro-6-[4-(2-phenyl-1H-imidazol-1-yl)phenyl]-3(2H)-pyridazinone.

reactant | 4-(2-phenyl-1H-imidazol-1-yl)-γ-oxobenzenebutanoic acid | C1(=CC=CC=C1)C=1N(C=CN1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C19H16N2O3
reactant | hydrazine hydrate | O.NN
product | 4,5-dihydro-6-[4-(2-phenyl-1H-imidazol-1-yl)phenyl]-3(2H)-pyridazinone | C1(=CC=CC=C1)C=1N(C=CN1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C19H16N4O
